US04987132
A solution of 6.30 g of 3-(4-methoxyphenyl)propyl methanesulfonate and 11.1 g of sodium iodide in 100 ml of acetone was refluxed for 15 hours. The reaction mixture was concentrated under reduced pressure and, after addition of water, the residue was extracted with ether. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 6.62 g of 3-(4-methoxyphenyl)propyl iodide.

reactant | 3-(4-methoxyphenyl)propyl methanesulfonate | 6.30 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)OC | C11H16O4S
reactant | sodium iodide | 11.1 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(4-methoxyphenyl)propyl iodide | 6.62 g | COC1=CC=C(C=C1)CCCI | C10H13IO
